US09227918B2
To a solution of 2.45 g (11.0 mmol) of dimethyl 5-formylisophthalate in 30 mL of methanol was added 1.48 mL (27.6 mmol) of nitromethane and 1.53 mL (11.0 mmol) of triethylamine (TEA). The solution was stirred at 22° C. for about 16 h, evaporated then coevaporated with xylenes. The residue was purified by flash chromatography on silica gel, eluting first with 5% ethyl acetate/hexane and then gradually increasing to 20% ethyl acetate/hexane which gave dimethyl 5-(1-hydroxy-2-nitroethyl)isophthalate as a solid.

reactant | dimethyl 5-formylisophthalate | 11.0 mmol, 2.45 g | C(=O)C=1C=C(C=C(C(=O)OC)C1)C(=O)OC | C11H10O5
reactant | nitromethane | 27.6 mmol, 1.48 mL | [N+](=O)([O-])C | CH3NO2
reactant | triethylamine | 11.0 mmol, 1.53 mL | C(C)N(CC)CC | C6H15N
solvent | methanol | 30 mL | CO | CH4O
product | dimethyl 5-(1-hydroxy-2-nitroethyl)isophthalate | OC(C[N+](=O)[O-])C=1C=C(C=C(C(=O)OC)C1)C(=O)OC | C12H13NO7
